US09447046B2
Preparation 126a: N-methyl-4-[2-(trimethylsilyl)ethynyl]aniline
To a suspension of 4-bromo-N-methylaniline (500 mg, 2.7 mmol), trimethylsilyl acetylene (527 mg, 5.4 mmol), CuI (92 mg, 0.5 mmol) and PPh3 (233 mg, 0.9 mmol) in TEA (20 mL) was added PdCl2(PPh3)2 (94 mg, 0.1 mmol) at r.t. under N2. The reaction was stirred at reflux overnight. The reaction was filtered, concentrated, and purified by silica gel chromatography (PE:EtOAc=20:1) to give 200 mg (37%) of the title compound as a yellow oil. [M+H] Calc'd for C12H17NSi, 204. Found, 204.

reactant | 4-bromo-N-methylaniline | 2.7 mmol, 500 mg | BrC1=CC=C(NC)C=C1 | C7H8BrN
reactant | trimethylsilyl acetylene | 5.4 mmol, 527 mg | C[Si](C)(C)C#C | C5H10Si
reactant | PPh3 | 0.9 mmol, 233 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
catalyst | CuI | 0.5 mmol, 92 mg | [Cu]I
catalyst | PdCl2(PPh3)2 | 0.1 mmol, 94 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-methyl-4-[2-(trimethylsilyl)ethynyl]aniline | 200 mg, 37% | CNC1=CC=C(C=C1)C#C[Si](C)(C)C | C12H17NSi
